US07335658B2
6-[4-(PYRIDINE-2-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use pyridine-2-carboxylic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (70% yield). 1H NMR (300 MHz, CDCl3) δ 8.60-8.58, 8.03, 7.98, 7.86-7.79, 7.73-7.71, 7.39-7.35, 6.98, 3.96-3.83, 3.54, 1.50, 0.78-0.69, 0.47-0.41, 0.08-0.05. MS (ES+) m/z 381.2 (M+1).

reactant | pyridine-2-carboxylic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(PYRIDINE-2-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1=NC=CC=C1 | C20H24N6O2
